* d:\dac\esim-dac\10_bit_dac\10_bit_dac.cir

.include switch.sub
.include 9_bit_dac.sub
v9  net-_x1-pad9_ gnd 3.3
x3 net-_x3-pad1_ net-_x1-pad12_ net-_x2-pad12_ vout switch
v1  net-_x1-pad1_ gnd pulse(0 1.8 0.1m 60p 60p 0.1m 0.2m)
v2  net-_x1-pad2_ gnd pulse(0 1.8 0.2m 60p 60p 0.2m 0.4m)
v3  net-_x1-pad3_ gnd pulse(0 1.8 0.4m 60p 60p 0.4m 0.8m)
v4  net-_x1-pad4_ gnd pulse(0 1.8 0.8m 60p 60p 0.8m 1.6m)
v5  net-_x1-pad5_ gnd pulse(0 1.8 1.6m 60p 60p 1.6m 3.2m)
v11  net-_x3-pad1_ gnd pulse(0 1.8 51.2m 60p 60p 51.2m 102.4m)
* u1  vout plot_v1
v6  net-_x1-pad6_ gnd pulse(0 1.8 3.2m 60p 60p 3.2m 6.4m)
v7  net-_x1-pad7_ gnd pulse(0 1.8 6.4m 60p 60p 6.4m 12.8m)
v8  net-_x1-pad8_ gnd pulse(0 1.8 12.8m 60p 60p 12.8m 25.6m)
v10  net-_x1-pad11_ gnd pulse(0 1.8 25.6m 60p 60p 25.6m 51.2m)
x1 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ net-_x1-pad8_ net-_x1-pad9_ net-_x1-pad10_ net-_x1-pad11_ net-_x1-pad12_ 9_bit_dac
x2 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ net-_x1-pad8_ net-_x1-pad10_ gnd net-_x1-pad11_ net-_x2-pad12_ 9_bit_dac
c1  vout gnd 5000p
.tran 0.1e-03 102.4e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
.endc
.end
